US07365095B2
Treatment of 2′,4′-dichloro-6-fluorobiphenyl-2-ol (1.6 g, 6.2 mmol) with potassium carbonate (1.3 g, 9.3 mmol) and allyl bromide (0.79 mL, 9.3 mmol) in DMSO (50 mL) according to the procedure described for Example 69, Step 3 provided 1.7 g (92%) of 2′-allyloxy-2,4-dichloro-6′-fluorobiphenyl as a pale yellow oil.

reactant | 2′,4′-dichloro-6-fluorobiphenyl-2-ol | 6.2 mmol, 1.6 g | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=CC1F)O | C12H7Cl2FO
reactant | potassium carbonate | 9.3 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 9.3 mmol, 0.79 mL | C(C=C)Br | C3H5Br
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 2′-allyloxy-2,4-dichloro-6′-fluorobiphenyl | 1.7 g, 92% | C(C=C)OC1=C(C(=CC=C1)F)C1=C(C=C(C=C1)Cl)Cl | C15H11Cl2FO
